US05030724
[(1,1-Dimethylethoxy)carbonyl]aminooxyacetic acid
[(1,1-Dimethylethoxy)carbonyl]aminooxyacetic acid, methyl ester (18.0 g, 0.087 mole) and potassium hydroxide (7.4 g, 0.13 mole) were stirred in 60 ml of methanol for one hour at ambient temperatures. The mixture was neutralized with concentrated hydrochloric acid and evaporated to dryness in vacuo. The residue was taken up in 100 ml of water and acidified to pH 2.5. Extraction with ethyl acetate, drying over magnesium sulfate and evaporation gave the title compound as 6.8 g of a colorless solid, m.p. 95°-98° C.

reactant | [(1,1-Dimethylethoxy)carbonyl]aminooxyacetic acid, methyl ester | 0.087 mole, 18.0 g | CC(C)(OC(=O)NOCC(=O)OC)C | C8H15NO5
reactant | potassium hydroxide | 0.13 mole, 7.4 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | [(1,1-Dimethylethoxy)carbonyl]aminooxyacetic acid | CC(C)(OC(=O)NOCC(=O)O)C | C7H13NO5
